US07528147B2
A solution of 5-methoxy-1-methyl-3-[1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-1H-indol-6-ol (2.998 g; 670 μmol) in dimethylformamide (3 ml) is placed in a 10 ml round-bottomed flask, sodium hydride (0.603 g; 2.01 mmol) is then added and the mixture is agitated for 5 minutes. The reaction mixture becomes green in color, and bis(2-chloroethyl) ether (0.235 ml; 2.01 mmol) is then added. The reaction mixture is then agitated for 1 hour 30 minutes at 20° C. Analysis by thin layer chromatography (50/50 cyclohexane/ethyl acetate) shows that the starting compound has been used up. The reaction mixture is run into water (30 ml) and then extracted with dichloromethane (20 ml). The organic extracts are combined, dried over magnesium sulfate, filtered and evaporated under reduced pressure, to give the crude compound, which is purified by chromatography on silica gel (AIT cartridge, Flash Silica column, 20-40 μm, 25 g, ref: FC-25SI-BP-SUP, 10 ml/min, 70/30 to 50/50 cyclohexane/ethyl acetate). The fractions containing the expected compound are combined and then evaporated under reduced pressure, giving 2-{6-[2-(2-chloroethoxy)ethoxy]-5-methoxy-1-methyl-1H-indol-3-yl}-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine (0.145 g; 39%), which is used as it is for the following step.

reactant | 5-methoxy-1-methyl-3-[1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-1H-indol-6-ol | 670 μmol, 2.998 g | COC=1C=C2C(=CN(C2=CC1O)C)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C | C24H21N3O4S
reactant | sodium hydride | 2.01 mmol, 0.603 g | [H-].[Na+]
reactant | bis(2-chloroethyl) ether | 2.01 mmol, 0.235 ml | ClCCOCCCl | C4H8Cl2O
reactant | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | water | 30 ml | O | H2O
product | 2-{6-[2-(2-chloroethoxy)ethoxy]-5-methoxy-1-methyl-1H-indol-3-yl}-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.145 g, 39% | ClCCOCCOC1=C(C=C2C(=CN(C2=C1)C)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C)OC | C28H28ClN3O5S
